US03991197
18 G. of zinc powder are added to a solution of 18.0 g. of 4-methyl-4,4'-dinitro-3-(4-pyridyl)-valerophenone in 500 ml. of glacial acetic acid while stirring. After one hour, an additional 18 g. of zinc powder are added and the reaction mixture is left to react overnight. Then the reaction mixture is filtered, the filter residue is washed with dilute acetic acid and the filtrate evaporated under reduced pressure. The resulting residue is treated with dilute ammonia solution and extracted with ethyl acetate. The extract is dried over sodium sulfate and evaporated under reduced pressure to obtain a residue, which is then treated with a mixture of 70 ml. of acetic anhydride and 35 ml. of pyridine. After 1 hour, the crystals which precipitate are filtered off and washed with ethyl acetate to yield 4'-[5,5-dimethyl-4-(4-pyridyl)-1-pyrrolin-2-yl]-acetanilide, which is recrystallized from methanol to give a product with a melting point of 227°-228° C.

reactant | 4-methyl-4,4'-dinitro-3-(4-pyridyl)-valerophenone | CC(C(CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=NC=C1)(C)[N+](=O)[O-] | C17H17N3O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc | [Zn] | Zn
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4'-[5,5-dimethyl-4-(4-pyridyl)-1-pyrrolin-2-yl]-acetanilide | CC1(C(CC(=N1)C1=CC=C(NC(C)=O)C=C1)C1=CC=NC=C1)C | C19H21N3O
